US07696200B2
Borane-tetrahydrofuran complex (1 M in tetrahydrofuran, 32 mL, 32 mmol) was added dropwise at 0° C. to a solution of 7-bromo-1H-4-oxa-1,5-diaza-naphthalen-2-one (1.45 g, 6.33 mmol) in tetrahydrofuran (240 mL). The ice bath was removed and the solution heated at reflux over 3 h, then volatile material was removed by distillation. The residue was taken up in 37% aq. hydrochloric acid solution and the reaction mixture, heated at 100° C. for 75 min, basified to pH 10 with 30% aq. sodium hydroxide solution, and extracted three times with dichloromethane. The combined organic layers were dried (Na2SO4) and evaporated to afford 7-bromo-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene (944 mg, 69%). White solid, MS (ISP)=215.1 (M+H)+.

reactant | Borane tetrahydrofuran | 32 mmol, 1 M, 32 mL | B.O1CCCC1
reactant | 7-bromo-1H-4-oxa-1,5-diaza-naphthalen-2-one | 6.33 mmol, 1.45 g | BrC1=CN=C2OCC(NC2=C1)=O | C7H5BrN2O2
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
product | 7-bromo-2,3-dihydro-1H-4-oxa-1,5-diaza-naphthalene | 944 mg, 69% | BrC1=CN=C2OCCNC2=C1 | C7H7BrN2O
